US04065431
To a solution of 56 ml of diisopropylamine in 1200 ml of dry tetrahydrofuran at -78° C was added 260 ml of 1.6 M n-butyllithium in hexane. After 1 hr of stirring, 40.4 g of methyl isobutyrate was added dropwise and the solution was stirred another 30 minutes. A 60-g portion of 2,6-bis(bromomethyl)naphthalene was added slowly, and the reaction mixture was stirred overnight and then brought to room temperature. Tetrahydrofuran was removed by evaporation. The residue was dissolved in 300 ml of CHCl3, washed 3 times with 400 ml of H2O, and dried and evaporated to dryness to obtain 56 g of 2,6-bis(2-carbomethoxy-2-methylpropyl)naphthalene, m.p. 108°-110° C. The product was recrystallized from benzene.

reactant | diisopropylamine | 56 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 1.6 M, 260 ml | C(CCC)[Li]
reactant | methyl isobutyrate | 40.4 g | C(C(C)C)(=O)OC | C5H10O2
reactant | 2,6-bis(bromomethyl)naphthalene | BrCC1=CC2=CC=C(C=C2C=C1)CBr | C12H10Br2
solvent | tetrahydrofuran | 1200 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 2,6-bis(2-carbomethoxy-2-methylpropyl)naphthalene | 56 g | C(=O)(OC)C(CC1=CC2=CC=C(C=C2C=C1)CC(C)(C(=O)OC)C)(C)C | C22H28O4
